US09447078B2
Preparation of 3-amino-1-(5-(cyclohexylmethoxy)furan-2-yl)propan-1-ol
LiAlH4 reduction of 3-(5-(cyclohexylmethoxy)furan-2-yl)-3-hydroxypropanenitrile following the method used in Example 1 gave after flash chromatography purification (2%-20% 7N NH3/MeOH—CH2Cl2 gradient) Example 24 as a light yellow oil which solidified upon standing. Yield (0.26 g, 46%); 1H NMR (400 MHz, CD3OD) δ 6.11 (d, J=3.4 Hz, 1H), 5.10 (d, J=3.4 Hz, 1H), 4.56 (t, J=6.8 Hz, 1H), 3.79 (d, J=6.3 Hz, 2H), 2.65-2.77 (m, 2H), 1.82-1.96 (m, 2H), 1.66-1.82 (m, 6H), 1.15-1.37 (m, 3H), 1.00-1.13 (m, 2H); ESI-MS m/z 254.2 [M+H]+.

reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 3-(5-(cyclohexylmethoxy)furan-2-yl)-3-hydroxypropanenitrile | C1(CCCCC1)COC1=CC=C(O1)C(CC#N)O | C14H19NO3
reactant | NH3 MeOH CH2Cl2 | 7N | N.CO.C(Cl)Cl
product | 3-amino-1-(5-(cyclohexylmethoxy)furan-2-yl)propan-1-ol | NCCC(O)C=1OC(=CC1)OCC1CCCCC1 | C14H23NO3
